US06294558B1
3-Hydroxymethyl-4-(methylthio)nitrobenzene.(step 1)
To a solution of 4-chloro-3-(hydroxymethyl)nitrobenzene (20 g, 0.10 mol) in DMSO (160 mL) and MeOH (80 mL), MeSNa (8.2 g, 0.12 mol) was added portionwise at 0° C. and the mixture was stirred for 2 h at room temperature. The mixture was poured into ice water (300 mL) and the yellow precipitate was collected by filtration and washed with ether (150 mL) gave the title compound (21 g, quantitative).

reactant | 4-chloro-3-(hydroxymethyl)nitrobenzene | 0.10 mol, 20 g | ClC1=C(C=C(C=C1)[N+](=O)[O-])CO | C7H6ClNO3
reactant | MeSNa | 0.12 mol, 8.2 g | C(CS(=O)(=O)[O-])S.[Na+]
solvent | DMSO | 160 mL | CS(=O)C | C2H6OS
solvent | MeOH | 80 mL | CO | CH4O
product | 3-Hydroxymethyl-4-(methylthio)nitrobenzene | 21 g | OCC=1C=C(C=CC1SC)[N+](=O)[O-] | C8H9NO3S
